Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
hypotension, abdominal pain, s/p egg retrieval
 
Major Surgical or Invasive Procedure:
blood transfusion (1 unit PRBC, uncrossed)

 
Physical Exam:
General: NAD, comfortable appearing.
Neuro: AxO x 3, affect appropriate.
HEENT:  Normocephalic, atraumatic. Sclerae anicteric.
Cardiovascular: RRR, no rubs/murmurs/gallops.
Pulmonary: normal rate and work of breathing, Lungs CTAB
Abdomen: normoactive bowel sounds. Soft, diffusely tender to
palpation and especially in RLQ, mildly distended. + rebound and
peritoneal signs. 
GU: no pad in place. Foley draining clear urine.
MSK: Lower extremities without edema, erythema, or TTP
 
Pertinent Results:
___ 10:57PM   ___ PTT-25.2 ___
___ 10:57PM   PLT COUNT-343
___ 10:57PM   NEUTS-85.2* LYMPHS-10.1* MONOS-3.7* EOS-0.2* 
BASOS-0.3 IM ___ AbsNeut-10.78*# AbsLymp-1.28 AbsMono-0.47 
AbsEos-0.03* AbsBaso-0.04
___ 10:57PM   WBC-12.7*# RBC-3.43*# HGB-10.6*# HCT-31.2*# 
MCV-91 MCH-30.9 MCHC-34.0 RDW-13.3 RDWSD-44.3
___ 10:57PM   estGFR-Using this
___ 10:57PM   GLUCOSE-116* UREA N-13 CREAT-1.0 SODIUM-138 
POTASSIUM-4.4 CHLORIDE-102 TOTAL CO2-23 ANION GAP-13
___ 12:10AM URINE  MUCOUS-MANY*
___ 12:10AM URINE  RBC-2 WBC-3 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 12:10AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-10* BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 12:10AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 12:10AM URINE  UCG-POSITIVE*
___ 12:10AM URINE  HOURS-RANDOM
___ 01:55AM   PLT COUNT-355
___ 01:55AM   WBC-10.8* RBC-3.11* HGB-9.8* HCT-27.7* MCV-89 
MCH-31.5 MCHC-35.4 RDW-13.9 RDWSD-45.0
___ 05:38AM   PLT COUNT-256
___ 05:38AM   WBC-10.8* RBC-3.23* HGB-10.1* HCT-28.9* 
MCV-90 MCH-31.3 MCHC-34.9 RDW-14.0 RDWSD-45.5

___ PUS
FINDINGS: 
The uterus is anteverted and measures 7.7 x 3.4 x 3.9 cm. The 
endometrium is homogenous and measures 7 mm.
There are large amount of echogenic material in the cul de sac 
and adjacent to the bilateral ovaries consistent with 
hemoperitoneum.  The bilateral ovaries are difficult to 
visualize due to surrounding blood.
Simple appearing free fluid is also seen adjacent to the liver, 
spleen, and in the bilateral lower quadrants.
IMPRESSION: 
1.  Large amount of hemoperitoneum in the cul-de-sac and 
surrounding the
bilateral ovaries.  The ovaries themselves are difficult to 
evaluate due to
surrounding blood.
2.  Simple appearing fluid adjacent to the liver, spleen, and in 
the bilateral
lower quadrants.
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecology service after 
presenting with abdominal pain. Upon arrival to ED, she was 
noted to be hypotensive and triggered. She was emergently 
transfused 1 unit of uncrossed blood and a FAST scan was notable 
for free fluid in RUQ and pelvis. She otherwise reported some 
spams across ribs. On TVUS she was noted to have large 
hemoperitoneum in cul-de-sac surrounding b/l ovaries, simples 
appearing fluid adjacent to the liver, spleen, and b/l lower 
quadrants.She became hemodynamically stable and was thus stable 
to to transfer to GYN service. Her abdominal exam and Hct 
remained stable throughout the day. Her pain was well controlled 
and she was thus discharged home in stable condition with 
outpatient followup. 
 
Medications on Admission:
none
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*50 Tablet Refills:*1 
2.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*50 Tablet Refills:*1 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*15 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
hemoperitoneum

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Gynecology service because you 
developed bleeding in your abdomen after your egg retrieval 
procedure. You received one unit of blood, and afterwards your 
blood counts remained stable. The source of bleeding has 
stopped, and thankfully you did not require surgery. The team 
now feels that you are safe to go home.

Please call immediately for any of the following:
- lightheadedness/dizziness or fainting
- chest pain or shortness of breath
- abdominal pain that is severe and does not improve with 
medications
- nausea, vomiting
- fevers, chills 
- heavy vaginal bleeding
 
Followup Instructions:
___